US07049310B2
Preparation of 3-(benzhydrylideneamino)-6-bromo-3,4-dihydro-1H-1.8-naphthyridin-2-one
NaH (60% dispersion in mineral oil, 1.2 g, 30 mmole) was added portionwise over 10 min to a solution of N-(diphenylmethylene)glycine ethyl ester (8.0 g, 30 mmole) in DMF (150 mL) with stirring under Ar at 0° C. The reaction was stirred for 15 min, then 2-amino-5-bromo-3-(bromomethyl)pyridine hydrobromide (5.0 g, 14.4 mmole) was added in one portion. The reaction was allowed to warm to RT and stir for 18 h, then was concentrated under vacuum. The remaining residue was taken up in EtOAc (150 mL), hexane (150 mL), and H2O (150 mL). The resulting suspension was triturated and filtered, and the solid was dried under vacuum to give the title compound (3.27 g, 56%) as an off-white solid: 1H NMR (400 MHz, d6-DMSO) δ 10.92 (s, 1 H), 8.23 (s, 1 H), 7.86 (s, 1 H), 7.26–7.55 (m, 10 H), 4.05 (dd, 1 H), 3.10 (t, 2 H); MS (ES) m/e 406.0 (M+H)+.

reactant | NaH | 30 mmole, 1.2 g | [H-].[Na+]
reactant | N-(diphenylmethylene)glycine ethyl ester | 30 mmole, 8.0 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | 2-amino-5-bromo-3-(bromomethyl)pyridine hydrobromide | 14.4 mmole, 5.0 g | Br.NC1=NC=C(C=C1CBr)Br
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 3-(benzhydrylideneamino)-6-bromo-3,4-dihydro-1H-1.8-naphthyridin-2-one | 3.27 g, 56% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1C(NC2=NC=C(C=C2C1)Br)=O | C21H16BrN3O
